US07723345B2
NaH (80 mg, 60%, 3.0 mmol) was added to a solution of 1-(3,4-Difluoro-phenyl)-2,2,2-trifluoro-ethanol (212 mg, 1 mmol) in 5 ml of THF, the mixture was stirred for 20 minutes at room temperature. 4,6-Dichloro-pyrimidine (149 mg, 1 mmol) was added and then the reaction mixture was heated at 70° C. for 1 hour. After cooling, THF was evaporated. The residue was dissolved in 15 ml of EtOAc, and then washed with water, dried over sodium sulfate. The solvent was removed by rotovap to give 230 mg of 4-chloro-6-[1-(3,4-difluoro-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidine, yield 70%.

reactant | NaH | 3.0 mmol, 80 mg | [H-].[Na+]
reactant | 1-(3,4-Difluoro-phenyl)-2,2,2-trifluoro-ethanol | 1 mmol, 212 mg | FC=1C=C(C=CC1F)C(C(F)(F)F)O | C8H5F5O
reactant | 4,6-Dichloro-pyrimidine | 1 mmol, 149 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-chloro-6-[1-(3,4-difluoro-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidine | 230 mg, yield 70% | ClC1=NC=NC(=C1)OC(C(F)(F)F)C1=CC(=C(C=C1)F)F | C12H6ClF5N2O
